US09388189B2
((S)-2-(1-((6-Amino-5-(5-hydroxypyridin-3-yl)pyrimidin-4-yl)amino)ethyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
To a solution of (S)-2-(1-((6-amino-5-iodopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (183 mg, 0.31 mmol) was added 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-ol (102 mg, 0.46 mmol), (1,1-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex 25 mg, 0.03 mmol) and a 2M aqueous solution of cesium carbonate in dioxane (462 μl). The mixture was stirred under argon atmosphere at 100° C. for 18 hours and then diluted with ethyl acetate. The resulting solution was washed with water and brine, dried over magnesium sulphate, filtered and the solvents were removed under reduced pressure. The product was purified by flash chromatography (0% to 100% hexane/AcOEt, 0-8% AcOEt/MeOH) to give 56 mg (40% yield) of the title compound as a white solid.

reactant | (S)-2-(1-((6-amino-5-iodopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.31 mmol, 183 mg | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)I | C19H18IN7O
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-ol | 0.46 mmol, 102 mg | CC1(OB(OC1(C)C)C=1C=C(C=NC1)O)C | C11H16BNO3
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 462 μl | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-2-(1-((6-Amino-5-(5-hydroxypyridin-3-yl)pyrimidin-4-yl)amino)ethyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 56 mg, 40% yield | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=CC=C2)C=2C=NC=C(C2)O | C23H20N8O2
